US08067621B2
Step 5: 2-[trans-4-(4-Chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-ylmethoxy]-ethanol
3-(2-Benzyloxy-ethoxymethyl)-4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman (0.4 g, 0.79 mmole) was dissolved in 10 ml EtOAc and Pd(OH)2 was added. Hydrogen was introduced via a balloon. The reaction was stirred at room temperature for 30 minutes. The catalyst was filtered and residue was used in next step without purification. Yield: 0.32 g, 97%. 1H NMR (CDCl3 400 MHz δ 7.73 (d, J=8.1 Hz, 2H), 7.51 (d, J=8.1 Hz, 2H), 7.03 (m, 1H), 6.41 (m, 1H), 4.90 (dd, J=8.8 and 2.9 Hz, 1H), 4.57 (s, 1H), 4.39 (td, J=11.7 and 1.5 Hz, 1H), 3.68 (br, 2H), 3.41-3.54 (m, 3H), 2.30 (t, J=9.5 Hz, 1H), 3.15 (m, 1H).

reactant | 3-(2-Benzyloxy-ethoxymethyl)-4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman | 0.79 mmole, 0.4 g | C(C1=CC=CC=C1)OCCOCC1COC2=C(C=CC(=C2C1S(=O)(=O)C1=CC=C(C=C1)Cl)F)F | C25H23ClF2O5S
reactant | Hydrogen | [H][H] | H2
solvent | Ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
product | 2-[trans-4-(4-Chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-ylmethoxy]-ethanol | ClC1=CC=C(C=C1)S(=O)(=O)[C@H]1[C@@H](COC2=C(C=CC(=C12)F)F)COCCO | C18H17ClF2O5S
